US07319099B2
(a) 5-Methylsulfamoyl-2-(2,2,2-trifluoro-ethoxy)-benzoic acid methyl ester
To 3.3 mmol 2-hydroxy-5-methylsulfamoyl-benzoic acid methyl ester and 3.3 mmol potassium carbonate in 50 ml acetone was added dropwise 4.9 mmol 2,2,2-trifluoro-ethyl trifluoromethanesulfonate, and the mixture was heated at 60° C. for 16 h. The mixture was then concentrated in vacuo. The residue was suspended in dichloromethane and filtered. The filtrate was concentrated in vacuo, and the residue was chromatographed on silica gel (eluant: ethyl acetate/heptane 3:7) to afford the tide compound. MS (m/e): 328.0 (M+H+, 100%)

reactant | 2-hydroxy-5-methylsulfamoyl-benzoic acid methyl ester | 3.3 mmol | COC(C1=C(C=CC(=C1)S(NC)(=O)=O)O)=O | C9H11NO5S
reactant | potassium carbonate | 3.3 mmol | C([O-])([O-])=O.[K+].[K+]
reactant | 2,2,2-trifluoro-ethyl trifluoromethanesulfonate | 4.9 mmol | FC(S(=O)(=O)OCC(F)(F)F)(F)F | C3H2F6O3S
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 5-Methylsulfamoyl-2-(2,2,2-trifluoro-ethoxy)-benzoic acid methyl ester | COC(C1=C(C=CC(=C1)S(NC)(=O)=O)OCC(F)(F)F)=O | C11H12F3NO5S
